US05925662
8.2. 2-Cyanoethyl-5-nitro-2,3-dihydrobenzofuran
Starting from 7.5 g (43 mmol) of 2-cyanoethyl-2,3-dihydrobenzofuran in 120 ml of trifluoroacetic acid and 11 g (130 mmol) of sodium nitrate treated under the conditions described in step 6 of Example 7, 3.4 g of product were obtained.

reactant | 2-cyanoethyl-2,3-dihydrobenzofuran | 43 mmol, 7.5 g | C(#N)CCC1OC2=C(C1)C=CC=C2 | C11H11NO
reactant | sodium nitrate | 130 mmol, 11 g | [N+](=O)([O-])[O-].[Na+]
solvent | trifluoroacetic acid | 120 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Cyanoethyl-5-nitro-2,3-dihydrobenzofuran | 3.4 g | C(#N)CCC1OC2=C(C1)C=C(C=C2)[N+](=O)[O-] | C11H10N2O3
